US06143311
A sodium salt of p-cyanophenol(14.1 g) was dissolved in methyl ethyl ketone (20 ml), and chloromethyl 2-propynyl ether (Intermediate I-a) (10.6g, 0.1 mol) prepared in example 1 was added dropwise to the solution with stirring at room temperature. The reaction mixture was stirred for further 2 hours and the solvent was then evaporated off. The residue was extracted with toluene (30 ml) and the organic layer was washed with distilled water (20 g). The solvent was then evaporated off to obtain a crude reaction product (18.7 g). This was recrystallized from hexane (60 ml) to obtain 1-cyano-4-[(2-propynyloxy)methoxy]benzene (Intermediate II-i) (15.0 g, 79.7% yield). Its chemical purity by HPLC was 99.0%.

reactant | sodium | [Na] | Na
reactant | p-cyanophenol | 14.1 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | chloromethyl 2-propynyl ether | 0.1 mol, 10.6g | C(C#C)OCCl | C4H5ClO
solvent | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | 1-cyano-4-[(2-propynyloxy)methoxy]benzene | 15.0 g, 79.7% yield | C(#N)C1=CC=C(C=C1)OCOCC#C | C11H9NO2
